US06750061B2
Post-ninhydrin Experiment
The machine-assisted assembly of the peptide LRRASGLIYNNPLMAR-amide (SEQ ID NO:24) was performed according to the in situ neutralization methods of Schnolzer and Kent (9) on a 0.25 mmol scale using MBHA resin and 2.2 mmol N-α-Boc amino acids. The following side chain protecting groups were used: Arg, tosyl; Asn, xanthyl; Ser, benzyl(Bzl); Tyr, bromobenzyloxycarbonyl(BrZ). Resin samples were collected at each step in the synthesis and each sample was individually subjected to the quantitative ninhydrin reaction. These samples were then pooled and the Boc groups removed in neat TFA. Cleavage of the peptide fragments from the resin was performed by treatment with HF-10% p-cresol (OC, 1 hour). The resulting crude peptide products were precipitated and washed with ether, dissolved in 50% acetic acid, diluted with water and lyophillized. The mass spectrum of the mixture is shown in FIG. 15.

reactant | MBHA resin | CC1=CC=C(C=C1)C(C2=CC=CC=C2)N.C=CC1=CC=CC=C1.C=CC1=CC=C(C=C1)C=C.Cl
reactant | Arg | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | Asn | N[C@@H](CC(N)=O)C(=O)O | C4H8N2O3
reactant | Tyr | N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C9H11NO3
product | ninhydrin | C1=CC=C2C(=C1)C(=O)C(C2=O)(O)O | C9H6O4
